US06320050B1
A mixture of zinc dust (2.6 g, 40 mmol, Aldrich, −325 mesh) and dry tetrahydrofuran (3 mL) under argon was treated with 1,2-dibromoethane (0.38 g, 2 mmol). The zinc suspension was then heated with a heat gun to ebullition, allowed to cool, and heated again. This process was repeated three times to make sure the zinc dust was activated. The activated zinc dust suspension was then treated with trimethylsilyl chloride (220 mg, 2 mmol), and the suspension was stirred for 15 min at 25° C. The reaction mixture was then treated dropwise with a solution of (E)-3-cycloheptyl-2-iodo-acrylic acid methyl ester (6.16 g, 20 mmol) in dry tetrahydrofuran (5 mL) over 10 min. The reaction mixture was then stirred at 40-45° C. for 1 h and then stirred overnight at 25° C. The reaction mixture was then diluted with dry tetrahydrofuran (10 mL), and the stirring was stopped to allow the excess zinc dust to settle down (-2 h). In a separate reaction flask, bis(dibenzylideneacetone)palladium(0) (270 mg, 0.5 mmol) and triphenylphosphine (520 mg, 2 mmol) in dry tetrahydrofuran (25 mL) was stirred at 25° C. under argon for 10 min and then treated with 4-bromophenyl methyl sulfone (4.23 g, 18 mmol) and the freshly prepared zinc compound in tetrahydrofuran. The resulting brick red solution was heated at 50° C. for 24 h. The reaction mixture was cooled to 25° C. and then poured into a saturated aqueous ammonium chloride solution (150 mL), and the organic compound was extracted into ethyl acetate (3×150 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×300 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 4/1 to 1/1 hexanes/ethyl acetate) afforded (E)-3-cycloheptyl-2-(4-methanesulfonyl-phenyl)-acrylic acid methyl ester (6.01 g, 99%) as a viscous yellow oil: EI-HRMS m/e calcd for C18H24O4S (M+) 336.1395, found 336.1395.

reactant | 1,2-dibromoethane | 2 mmol, 0.38 g | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 2 mmol, 220 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | (E)-3-cycloheptyl-2-iodo-acrylic acid methyl ester | 20 mmol, 6.16 g | COC(/C(=C\C1CCCCCC1)/I)=O | C11H17IO2
reactant | triphenylphosphine | 2 mmol, 520 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromophenyl methyl sulfone | 18 mmol, 4.23 g | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | zinc | 40 mmol, 2.6 g | [Zn] | Zn
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.5 mmol, 270 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (E)-3-cycloheptyl-2-(4-methanesulfonyl-phenyl)-acrylic acid methyl ester | 6.01 g, 99% | COC(\C(=C\C1CCCCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H24O4S
